US06872731B2
A cooled (−10° C.) suspension of 7-methylimidazo[1,2-α]pyridine (26 g, 0.2 mol) and sodium acetate (24.3 g, 0.3 mol) in methanol (150 ml) was treated with bromine (ca. 10 ml, 0.2 mol) added dropwise until the first permanent colour change occurred. Stirring was continued for a further 20 minutes before the reaction was poured into saturated aqueous sodium hydrogencarbonate (2 l). The resulting solid was filtered, washed with water and dried. Trituration with 5% ether in isohexane furnished 3-bromo-7-methylimidazo[1,2-α]pyridine as a red-brown powder (41.5 g, 100%). 1H NMR (360 MHz, CDCl3) δH 2.43 (3H, s), 6.76 (1H, d, J 7), 7.37 (1H, s), 7.53 (1H, s), 7.55 (1H, s), 8.00 (1H, d, J 7); m/z (ES+) 210/212 (M++H).

reactant | 7-methylimidazo[1,2-α]pyridine | 0.2 mol, 26 g | CC1=CC=2N(C=C1)C=CN2 | C8H8N2
reactant | sodium acetate | 0.3 mol, 24.3 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.2 mol, ca. 10 ml | BrBr | Br2
reactant | sodium hydrogencarbonate | 2 l | C(O)([O-])=O.[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 3-bromo-7-methylimidazo[1,2-α]pyridine | 41.5 g, 100% | BrC1=CN=C2N1C=CC(=C2)C | C8H7BrN2
